US05294734
15.8 g (55.2 mmol) of 6-(N-acetyl-N-methylamino)-2-formylamino-3-hydroxy-4-methylene-hexanoic acid ethyl ester are dissolved in 150 ml of dichloromethane, and 5.1 ml (66.2 mmol) of thionyl bromide are added dropwise at room temperature. After one hour, 100 ml of water are added and the mixture is stirred vigorously for 10 minutes. The organic phase is separated off, washed in succession with water, 1N KHCO3 solution and again with water, dried over MgSO4, filtered and concentrated by evaporation. 6-(N-acetyl-N-methylamino)-4-bromomethyl-2-formylamino-hex-3-enoic acid ethyl ester is obtained in the form of a yellowish-orange oil which is reacted further in the crude state.

reactant | 6-(N-acetyl-N-methylamino)-2-formylamino-3-hydroxy-4-methylene-hexanoic acid ethyl ester | 55.2 mmol, 15.8 g | C(C)OC(C(C(C(CCN(C)C(C)=O)=C)O)NC=O)=O | C13H22N2O5
reactant | thionyl bromide | 66.2 mmol, 5.1 ml | S(=O)(Br)Br | Br2OS
reactant | water | 100 ml | O | H2O
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 6-(N-acetyl-N-methylamino)-4-bromomethyl-2-formylamino-hex-3-enoic acid ethyl ester | C(C)OC(C(C=C(CCN(C)C(C)=O)CBr)NC=O)=O | C13H21BrN2O4
